US05359098
6-(6-(4-Methylpiperidinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 3 from 6-hydroxyflavone, 1-bromo-6-chlorohexane, and 4-methylpiperidine: mp 209°-214° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
product | 6-(6-(4-Methylpiperidinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.CC1CCN(CC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | InChI=1S/C27H33NO3.ClH/c1-21-13-16-28(17-14-21)15-7-2-3-8-18-30-23-11-12-26-24(19-23)25(29)20-27(31-26)22-9-5-4-6-10-22;/h4-6,9-12,19-21H,2-3,7-8,13-18H2,1H3;1H
